US03985885
D. 5-Isothiocyanato-2-(3-pyridinyl)benzothiazole
5-Amino-2-(3-pyridinyl)benzothiazole, 8.0 g, 0.035 M, is dissolved in 400 cc of tetrahydrofuran and 9.8 cc, 0.070 M, of triethylamine. Thiophosgene, 2.7 cc, 0.035 M is added, and the resulting mixture stirred overnight at ambient temperature. The solids which form are filtered and washed with tetrahydrofuran. The filtrate is concentrated to dryness and chromatographed on Alumina IV; elution with benzene yields 1.0 g of white solid which is recrystallized from acetonitrile to yield the title compound, 0.52 g, m.p. 160°-162° (12% of theory).

reactant | 5-Amino-2-(3-pyridinyl)benzothiazole | NC=1C=CC2=C(N=C(S2)C=2C=NC=CC2)C1 | C12H9N3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
product | 5-Isothiocyanato-2-(3-pyridinyl)benzothiazole | 1.0 g | N(=C=S)C=1C=CC2=C(N=C(S2)C=2C=NC=CC2)C1 | C13H7N3S2
